US07001899B2
Preparation of (3-tert-butoxycarbonylamino-2-oxo-2,3,4,7-tetrahydroazepin-1-yl) acetic acid methyl ester (2):
Grubbs catalyst (0.3 g) is added to a solution of [allyl-(2-tert-butoxycarbonylamino-pent-4-enoyl)amino]acetic acid methyl ester, 1, (0.815 g, 2.5 mmol) in 50 mL of CH2Cl2. The solution is refluxed for 12 hours after which additional catalyst (0.29 g) is added and the solution is refluxed for another 3 hours. The solution is then cooled, 1 mL of DMSO is added, and stirring continued at room temperature for an additional 12 hours. The solvent is removed in vacuo and the residue purified over silica gel to afford the desired product.

reactant | [allyl-(2-tert-butoxycarbonylamino-pent-4-enoyl)amino]acetic acid methyl ester | COC(CN(C(C(CC=C)NC(=O)OC(C)(C)C)=O)CC=C)=O | C16H26N2O5
reactant | DMSO | 1 mL | CS(=O)C | C2H6OS
catalyst | Grubbs catalyst | 0.3 g | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (3-tert-butoxycarbonylamino-2-oxo-2,3,4,7-tetrahydroazepin-1-yl) acetic acid methyl ester | COC(CN1C(C(CC=CC1)NC(=O)OC(C)(C)C)=O)=O | C14H22N2O5
